US07847101B2
Synthesis of 2-(3-amino-5-methyl-1H-pyrazol-4-yl)-benzothiazole-6-carboxylic Acid Methyl Ester (574-26E2)
A solution of 2-(3-amino-5-methyl-1H-pyrazol-4-yl)-benzothiazole-6-carboxylic acid (1.52 g, 5.5 mmol) in 500 mL of anhydrous methanol containing HCl gas was heated to reflux for 5 hrs. The excess methanol was removed by distillation and the solution was neutralized by the addition of a solution of saturated sodium carbonate. The resulting solids were isolated by filtration to yield 500 mg of the title compound as a yellow solid. MS (m/z, ES+): 289.1 (M+1, 100%).

reactant | 2-(3-amino-5-methyl-1H-pyrazol-4-yl)-benzothiazole-6-carboxylic acid | 5.5 mmol, 1.52 g | NC1=NNC(=C1C=1SC2=C(N1)C=CC(=C2)C(=O)O)C | C12H10N4O2S
reactant | HCl | Cl | ClH
reactant | methanol | 500 mL | CO | CH4O
product | 2-(3-amino-5-methyl-1H-pyrazol-4-yl)-benzothiazole-6-carboxylic Acid Methyl Ester | 500 mg | COC(=O)C1=CC2=C(N=C(S2)C=2C(=NNC2C)N)C=C1 | C13H12N4O2S
